US05539082
3-(1-Thyminyl)-propanoic acid methyl ester
Thymine (14.0 g, 0.11 mol) was suspended in methanol. Methyl acrylate (39.6 ml, 0.44 mol) was added, along with catalytic amounts of sodium hydroxide. The solution was refluxed in the dark for 45 h, evaporated to dryness, in vacuo, and the residue dissolved in methanol (8 ml) with heating. After cooling on an ice bath, the product was precipitated by addition of ether (20 ml), isolated by filtration, washed with ether (3×15 ml), and dried over sicapent, in vacuo. Yield 11.23 g (48%). M.p. 112°-119° C. Anal. for C9H12N2O4, found (calc.) C: 51.14 (50.94) H: 5.78 (5.70) N: 11.52 (13.20). The compound showed satisfactory 1H and 13C-NMR spectra.

reactant | Thymine | 0.11 mol, 14.0 g | N1C(=O)NC(=O)C(C)=C1 | C5H6N2O2
reactant | Methyl acrylate | 0.44 mol, 39.6 ml | C(C=C)(=O)OC | C4H6O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(1-Thyminyl)-propanoic acid methyl ester | COC(CCN1C(=O)NC(=O)C(C)=C1)=O | C9H12N2O4
